US09227973B2
Step E: 6-Phenyl-5,6-dihydrooxepino[4,5-b]pyridin-9(8H)-one
Sodium chloride (0.10 g, 1.7 mmol) was added to a solution of methyl 9-hydroxy-6-phenyl-5,6-dihydrooxepino[4,5-b]pyridine-8-carboxylate (0.50 g, 1.7 mmol) in dimethylsulfoxide (8 mL) and water (0.4 mL). The resulting mixture was heated at 150° C. for 2 h, then cooled and partitioned between water and ethyl acetate (3×). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by flash chromatography on silica gel eluting with 40% ethyl acetate in petroleum ether to give the title compound. MS: m/z=240.0 (M+1).

reactant | Sodium chloride | 1.7 mmol, 0.10 g | [Cl-].[Na+]
reactant | methyl 9-hydroxy-6-phenyl-5,6-dihydrooxepino[4,5-b]pyridine-8-carboxylate | 1.7 mmol, 0.50 g | OC1=C(OC(CC=2C1=NC=CC2)C2=CC=CC=C2)C(=O)OC | C17H15NO4
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
solvent | water | 0.4 mL | O | H2O
product | 6-Phenyl-5,6-dihydrooxepino[4,5-b]pyridin-9(8H)-one | C1(=CC=CC=C1)C1CC=2C(=NC=CC2)C(CO1)=O | C15H13NO2
